US05434292
Forty (40) grams of 1-[3-chloro-4-(2-oxocyclohexane-1-yl methyl)phenyl]ethanol were dissolved in 300 ml of carbon tetrachloride and then incorporated dropwise with 44.7 g of phosphorus tribromide at a temperature of -15° to -10° C., after which the whole was stirred at said temperature for 30 minutes, withdrawn from the ice bath and then further stirred for one hour. After the completion of the reaction, the reaction mixture was water washed, dried and then freed of the solvent at a reduced pressure to obtain a residue. The residue was adhered to a silica gel-packed column and then eluted with isopropyl ether-hexane (1/2), after which the eluate was freed of the solvent thereby to obtain 46.5 g of 1-[3-chloro-4-(2-oxocyclohexane-1-yl methyl)phenyl]ethylbromide.

reactant | 1-[3-chloro-4-(2-oxocyclohexane-1-yl methyl)phenyl]ethanol | ClC=1C=C(C=CC1CC1C(CCCC1)=O)C(C)O | C15H19ClO2
reactant | phosphorus tribromide | 44.7 g | P(Br)(Br)Br | Br3P
reactant | water | O | H2O
solvent | carbon tetrachloride | 300 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-[3-chloro-4-(2-oxocyclohexane-1-yl methyl)phenyl]ethylbromide | 46.5 g | ClC=1C=C(C=CC1CC1C(CCCC1)=O)C(C)Br | C15H18BrClO
